US07875639B2
N-[(2Z)-4,5-dimethyl-3-(2-phenoxyethyl)-1,3-thiazol-2(3H)-ylidene]adamantane-1-carboxamide
4,5-Dimethylthiazol-2-ylamine, (2-bromoethoxy)benzene and 1-adamantane carboxylic acid were processed according to the method of Example 47 to afford the title compound. 1H NMR (CDCl3, 300 MHz) δ ppm 1.57-1.77 (m, 6 H) 1.83 (d, J=2.50 Hz, 6 H) 1.93-2.03 (m, 3 H) 2.16 (s, 3 H) 2.26 (s, 3 H) 4.34 (t, J=5.30 Hz, 2 H) 4.46 (t, J=5.30 Hz, 2 H) 6.83-7.03 (m, 3 H) 7.23-7.36 (m, 2 H); MS (ESI) m/z 411 (M=H)+.

reactant | 4,5-Dimethylthiazol-2-ylamine | CC=1N=C(SC1C)N | C5H8N2S
reactant | (2-bromoethoxy)benzene | BrCCOC1=CC=CC=C1 | C8H9BrO
reactant | 1-adamantane carboxylic acid | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
product | N-[(2Z)-4,5-dimethyl-3-(2-phenoxyethyl)-1,3-thiazol-2(3H)-ylidene]adamantane-1-carboxamide | CC=1N(/C(/SC1C)=N/C(=O)C12CC3CC(CC(C1)C3)C2)CCOC2=CC=CC=C2 | C24H30N2O2S
